US07109234B2
Stage 4: 2-(S)-Ethyl-3-(2-methoxyphenylthio)-propan-1-ol (XXd-1)
0.47 ml (0.0038 mol) of 2-methoxythiophenol, in solution in 5 ml of dimethylformamide, is added dropwise to a round-bottomed flask, kept under an inert atmosphere, comprising 0.19 g (0.0047 mol) of sodium hydride in suspension in 10 ml of dimethylformamide cooled to 0° C. The mixture is reheated to ambient temperature and stirred for 1 hour, then 0.99 g (0.0038 mol) of 2-(S)-ethyl-3-hydroxypropyl p-toluene-sulfonate (XIXd-1), in solution in 10 ml of dimethyl-formamide, is added. After stirring at ambient temperature for 2 hours, the dimethylformamide is evaporated under high vacuum and the residue is taken up in dichloromethane. The organic phase is washed with water and with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue is purified by flash chromatography on silica gel (eluent: dichloromethane/methanol=98:2). 0.87 g (0.0038 mol) of the title compound (XXd-1) is recovered in the form of an oil.

reactant | 2-methoxythiophenol | 0.0038 mol, 0.47 ml | COC1=C(C=CC=C1)S | C7H8OS
reactant | sodium hydride | 0.0047 mol, 0.19 g | [H-].[Na+]
reactant | 2-(S)-ethyl-3-hydroxypropyl p-toluene-sulfonate | 0.0038 mol, 0.99 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H](CO)CC)C | C12H18O4S
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethyl-formamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(S)-Ethyl-3-(2-methoxyphenylthio)-propan-1-ol | 0.0038 mol, 0.87 g, Yield: 100% | C(C)[C@@H](CO)CSC1=C(C=CC=C1)OC | C12H18O2S
